US08119805B2
Stage (vii): tert-Butyl 9-(pyridin-4-yloxy)-3-azaspiro[5.5]undecane-3-carboxylate
4-Chloropyridine hydrochloride (1.3 g) was added to sodium hydride (0.89 g) in DMSO (20 ml) and the mixture was stirred for 10 min. tert-Butyl 9-oxo-3-azaspiro[5.5]undecane-3-carboxylate (2.0 g) in DMSO (20 ml) was subsequently added slowly and the mixture was stirred overnight (TLC control: conversion approx. 30-35%). A catalytic amount of sodium iodide was added and the reaction mixture was stirred at 80° C. for 8 h (TLC control). Methanol and NaHCO3 solution was added to the reaction mixture and the mixture was stirred for 20 min. It was then extracted with ethyl acetate and the extract was washed again with NaHCO3 solution and cold water. The organic phase was dried (Na2SO4) and concentrated in vacuo. The crude product obtained in this way was purified by column chromatography (silica gel, 70% ethyl acetate/hexane). Yield: 1.0 g (40%)

reactant | 4-Chloropyridine hydrochloride | 1.3 g | Cl.ClC1=CC=NC=C1
reactant | sodium hydride | 0.89 g | [H-].[Na+]
reactant | tert-Butyl 9-oxo-3-azaspiro[5.5]undecane-3-carboxylate | 2.0 g | O=C1CCC2(CCN(CC2)C(=O)OC(C)(C)C)CC1 | C15H25NO3
reactant | sodium iodide | [I-].[Na+]
reactant | NaHCO3 | C(=O)(O)[O-].[Na+]
solvent | DMSO | 20 ml | CS(=O)C | C2H6OS
solvent | DMSO | 20 ml | CS(=O)C | C2H6OS
solvent | Methanol | CO | CH4O
product | tert-Butyl 9-(pyridin-4-yloxy)-3-azaspiro[5.5]undecane-3-carboxylate | N1=CC=C(C=C1)OC1CCC2(CCN(CC2)C(=O)OC(C)(C)C)CC1 | C20H30N2O3
